US06936602B1
In a mixture of THF and ethanol (1:1, v/v, 30.0 ml) was dissolved methyl 1-methylsulfonyl-7-[4-(2-propoxy)ethoxyphenyl]-2,3-dihydro-1H-1-benzazepine-4-carboxylate (354 mg). To the solution was added 1N sodium hydroxide solution (7.7 ml), and the mixture was stirred at room temperature for 15.5 hours. The mixture was a little concentrated, and to the residue was added 1N hydrochloric acid to convert weakly acidic solution. The mixture was extracted with ethyl acetate, and the organic layer was washed with water and saturated brine, and dried with anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give crystals, which were washed with ethyl acetate/hexane to give 1-methylsulfonyl-7-[4-(2-propoxy)ethoxyphenyl]-2,3-dihydro-1H-1-benzazepine-4-carboxylic acid (337 mg, 98%) as white crystals.

reactant | methyl 1-methylsulfonyl-7-[4-(2-propoxy)ethoxyphenyl]-2,3-dihydro-1H-1-benzazepine-4-carboxylate | 354 mg | CS(=O)(=O)N1CCC(=CC2=C1C=CC(=C2)C2=CC=C(C=C2)OCCOC(C)C)C(=O)OC | C24H29NO6S
reactant | sodium hydroxide | 1N, 7.7 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | ethanol | 30.0 ml | C(C)O | C2H6O
product | 1-methylsulfonyl-7-[4-(2-propoxy)ethoxyphenyl]-2,3-dihydro-1H-1-benzazepine-4-carboxylic acid | 337 mg, 98% | CS(=O)(=O)N1CCC(=CC2=C1C=CC(=C2)C2=CC=C(C=C2)OCCOC(C)C)C(=O)O | C23H27NO6S
